US04046903
To ferrocenyloxyacetic acid (1.56 g, 0.006 m) and pyridine (4 drops) in benzene (100 cm3) was added dropwise phosphorous (III) chloride (5.4 cm3). The mixture was stirred for 3 hours at 60° to 70° C. After this time the benzene solution was decanted and the benzene removed under vacuum. The residue was taken up in benzene and the benzene again removed under vacuum. This procedure was repeated. Recrystallization from light petroleum (40° to 60°) gave 1.40 g (83.8%) of ferrocenyloxyacetyl chloride. The chloride (1.40g, 0.005 m) was taken up in dichloromethane (5cm3) and added dropwise to a mixture of 6-aminopenicillanic acid (1.08 g, 0.005 m) and triethylamine (1.01 g, 0.01 m) in dichloromethane (25 cm3) at 0° C. The mixture was stirred for 15 minutes at 0° C. and for 1 hour at 15° C. The solution was then filtered and the solvent removed under vacuum. The residue was taken up in a mixture of water (100 cm3) and ethyl acetate (25 cm3) and the aqueous layer adjusted to pH 2.5 with 2M HCl. The layers were separated and the ethyl acetate layer washed with water, dried, filtered and a 40% solution of SEH in 4-methylpentan-2-one (2 cm3) added. Worked up as previously the yield was 1.53 (67%) of the sodium salt of 6-(2-ferrocenyloxyacetamido) penicillanic acid. I.r. spectrum showed strong β-lactam absorption at 1770 cm-1.

reactant | ferrocenyloxyacetic acid | 1.56 g | [C-]1(C=CC=C1)OCC(=O)O.[CH-]1C=CC=C1.[Fe+2]
reactant | phosphorous (III) chloride | 5.4 cm3 | P(Cl)(Cl)Cl | Cl3P
catalyst | pyridine | 4 drops | N1=CC=CC=C1 | C5H5N
solvent | benzene | 100 cm3 | C1=CC=CC=C1 | C6H6
product | ferrocenyloxyacetyl chloride | 1.40 g, 83.8% | [C-]1(C=CC=C1)OCC(=O)Cl.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C7H6ClO2.C5H5.Fe/c8-7(9)5-10-6-3-1-2-4-6;1-2-4-5-3-1;/h1-4H,5H2;1-5H;/q2*-1;+2
